US05977296
(1S,2S)-1-(N-t-butyloxycarbonylamino)-2-aminocyclohexane (1)
To a cooled solution of (1S,2S)-diaminocyclohexane (5 ml; 41.6 mmol) in CH2Cl2 (25 ml) was added a solution of di-t-butyl dicarbonate (3.03 g; 13.9 mmol) in CH2Cl2 (25 ml) over a period of 30 mins. The reaction mixture was stirred overnight at room temperature. Water (20 ml) and CH2Cl2 (25 ml) were added in order to dissolve the precipitate. After separation of the two phases, the organic phase was concentrated under reduced pressure and the residue was dissolved in ether (25 ml) and water (25 ml). The mixture was acidified to pH 5 with HCl 4N and the bis-protected diamine was extracted with ether (3×25 ml). The aqueous phase was adjusted to 10.5 with NaOH 2N and extracted with ethylacetate (6×30 ml). The organic phase was dried over sodium sulfate, filtered and evaporated under reduced pressure to yield the title-compound (2.3 g, 73% based on Boc2O).

reactant | (1S,2S)-diaminocyclohexane | 41.6 mmol, 5 ml | C1CC[C@@H]([C@H](C1)N)N | C6H14N2
reactant | di-t-butyl dicarbonate | 13.9 mmol, 3.03 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 20 ml | O | H2O
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | (1S,2S)-1-(N-t-butyloxycarbonylamino)-2-aminocyclohexane | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](CCCC1)N | C11H22N2O2
